US07960562B2
Under ice cooling, 4 N—HCl/ethyl acetate (0.09 mL) was added to an EtOH/dioxane (2/1) mixed solution (4 mL) of N-({3-[2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-(2-methoxypyridin-4-yl)-3-oxopropanoyl]phenyl}sulfonyl)-2-hydroxy-2-methylpropanimidamide (127 mg), followed by stirring for 1 hour. The reaction mixture was concentrated under reduced pressure. An aqueous sodium hydrogencarbonate solution was added to the resulting residue, followed by extraction with ethyl acetate and concentration under reduced pressure. The resulting residue was purified by silica gel column chromatography (chloroform/methanol=10/1) to obtain N-({3-[2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-oxo-3-(2-oxo-1,2-dihydropyridin-4-yl)propanoyl]phenyl}sulfonyl)-2-hydroxy-2-methylpropanimidamide (18 mg).

reactant | HCl ethyl acetate | 0.09 mL | Cl.C(C)(=O)OCC
reactant | N-({3-[2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-(2-methoxypyridin-4-yl)-3-oxopropanoyl]phenyl}sulfonyl)-2-hydroxy-2-methylpropanimidamide | 4 mL, 127 mg | N1C(NC2=C1C=CC=C2)=C(C(=O)C=2C=C(C=CC2)S(=O)(=O)NC(C(C)(C)O)=N)C(=O)C2=CC(=NC=C2)OC | C26H25N5O6S
solvent | EtOH dioxane | CCO.O1CCOCC1
product | N-({3-[2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-oxo-3-(2-oxo-1,2-dihydropyridin-4-yl)propanoyl]phenyl}sulfonyl)-2-hydroxy-2-methylpropanimidamide | 18 mg | N1C(NC2=C1C=CC=C2)=C(C(=O)C=2C=C(C=CC2)S(=O)(=O)NC(C(C)(C)O)=N)C(C2=CC(NC=C2)=O)=O | C25H23N5O6S
